US04987132
Dicyclohexylcarbodiimide (160 mg) was added to a solution of 200 mg of p-heptyloxybenzylamine, 150 mg of glyceric acid (65% aqueous solution) and 110 mg of 1-hydroxybenzotriazole in 2 ml of N,N-dimethylformamide. The reaction mixture was stirred at room temperature for 16 hours, then diluted with ethyl acetate, washed in sequence with saturated aqueous solution of sodium hydrogen carbonate, water and saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by preparative silica gel thin layer chromatography to give 80 mg of N-(p-heptyloxybenzyl)glyceramide.

reactant | Dicyclohexylcarbodiimide | 160 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | p-heptyloxybenzylamine | 200 mg | C(CCCCCC)OC1=CC=C(CN)C=C1 | C14H23NO
reactant | glyceric acid | 150 mg | C(C(O)CO)(=O)O | C3H6O4
reactant | 1-hydroxybenzotriazole | 110 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(p-heptyloxybenzyl)glyceramide | 80 mg | C(CCCCCC)OC1=CC=C(CNC(C(O)CO)=O)C=C1 | C17H27NO4
